US05162310
Starting from N-(4-phenylbutyl)-N-benzylamine and ethyl acrylate, ethyl 3-[N-(4-phenylbutyl)-N-benzylamino]-propionate is obtained analogously to Example 1 and is hydrolyzed with hydrochloric acid to give 3-[N-(4-phenylbutyl)-N-benzylamino]-propionic acid hydrochloride, melting point 145°-147°.

reactant | N-(4-phenylbutyl)-N-benzylamine | C1(=CC=CC=C1)CCCCNCC1=CC=CC=C1 | C17H21N
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | ethyl 3-[N-(4-phenylbutyl)-N-benzylamino]-propionate | C1(=CC=CC=C1)CCCCN(CC1=CC=CC=C1)CCC(=O)OCC | C22H29NO2
